US07763608B2
A mixture of 2,5-diiodofluorobenzene II-4 (2.50 g, 7.18 mmol), 4-hydroxymethylimidazole hydrochloride (0.967 g, 7.18 mmol), 8-hydroxyquinoline (0.104 g, 0.717 mmol) and K2CO3 (2.00 g, 14.5 mmol) in DMSO (12 mL) was degassed with Ar before being charged with CuI (0.136 g, 0.716 mmol). The mixture in a sealed tube was heated at 130° C. overnight. After being cooled to room temperature, H2O and EtOAc were added. It was filtered through celite. The organic phase was separated, dried over Na2SO4, concentrated in vacuo. The residue was purified by a silica gel column, eluted with MeOH in CH2Cl2 (0-5% MeOH) to give (1-(3-fluoro-4-iodophenyl)-1H-imidazol-4-yl)methanol (0.39 g).

reactant | 2,5-diiodofluorobenzene | IC1=C(C=C(C=C1)I)F | C6H3FI2
reactant | 4-hydroxymethylimidazole hydrochloride | 7.18 mmol, 0.967 g | Cl.OCC=1N=CNC1
reactant | 8-hydroxyquinoline | 0.717 mmol, 0.104 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | K2CO3 | 14.5 mmol, 2.00 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 12 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.716 mmol, 0.136 g | [Cu]I
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | (1-(3-fluoro-4-iodophenyl)-1H-imidazol-4-yl)methanol | 0.39 g | FC=1C=C(C=CC1I)N1C=NC(=C1)CO | C10H8FIN2O
